US04663327
19.2 g (0.1 mol) of ethyl α-hydroxymethylene-phenylacetate and 11 g (0.1 mol) of 2-hydrazino-pyrimidine in 150 ml of ethanol are boiled under reflux for 3 hours. The mixture is cooled to room temperature, and 9 g (0.1 mol) of concentrated sodium hydroxide solution are then added dropwise, while stirring. Stirring is then continued for 2 hours at room temperature, and the mixture is then boiled under reflux for 2 hours. The mixture is neutralized with concentrated hydrochloric acid, and diluted with 1 l of water. The precipitated crystals are filtered off under suction and dried in the air. 15 g (63% of theory) of 1-pyrimid-2-yl-4-phenyl-pyrazolin-5-one of melting point 159° to 160° C. (from ethanol) are obtained.

reactant | ethyl α-hydroxymethylene-phenylacetate | 0.1 mol, 19.2 g | OC=C(C(=O)OCC)C1=CC=CC=C1 | C11H12O3
reactant | 2-hydrazino-pyrimidine | 0.1 mol, 11 g | N(N)C1=NC=CC=N1 | C4H6N4
reactant | sodium hydroxide | 0.1 mol, 9 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 1 l | O | H2O
product | 1-pyrimid-2-yl-4-phenyl-pyrazolin-5-one | 15 g, 63% | N1=C(N=CC=C1)N1NC=C(C1=O)C1=CC=CC=C1 | C13H10N4O
